US09422293B2
Step C: (2-Methylsulfanyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl)-(4-trifluoromethyl-phenyl)-amine
A solution containing methylsulfanyl-4-trifluoromethanesulfonyloxy-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester (950 mg, 2.15 mmol), 4-trifluoromethylaniline (0.6 mL, 4.74 mmol) and DMSO (8 mL) was heated at 100° C. for 24 h. The reaction mixture was cooled to rt and diluted with water and extracted with EtOAc. The combined organic extracts were dried and concentrated. The residue was purified (FCC; MeOH/CH2Cl2) to give the title compound (422 mg, 55%).

reactant | methylsulfanyl-4-trifluoromethanesulfonyloxy-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester | 2.15 mmol, 950 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=NC(=N2)SC)OS(=O)(=O)C(F)(F)F | C15H20F3N3O5S2
reactant | 4-trifluoromethylaniline | 4.74 mmol, 0.6 mL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2-Methylsulfanyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl)-(4-trifluoromethyl-phenyl)-amine | 422 mg, 55% | CSC=1N=C(C2=C(CCNCC2)N1)NC1=CC=C(C=C1)C(F)(F)F | C16H17F3N4S
